US07723333B2
2-(2-Methoxyethyl)-5-phenyl-4-(tetrahydro-2H-pyran-4-ylamino)isothiazol-3(2H)-one 1,1-dioxide
The title compound was prepared from 4-chloro-2-(2-methoxyethyl)-5-phenylisothiazol-3(2H)-one 1,1-dioxide and tetrahydro-2H-pyran-4-amine in a similar manner as described for Example 1. 1H NMR (400 MHz, CD3CN): δ 7.58-7.50 (m, 5H), 5.70 (d, 1H), 3.84 (t, 2H), 3.74-3.66 (m, 4H), 3.35 (s, 3H), 3.21-3.10 (m, 1H), 2.86-2.78 (m, 2H), 1.61-1.54 (m, 2H), 1.48-1.36 (m, 2H); Mass Spectrum: M+H+ 367.

reactant | 4-chloro-2-(2-methoxyethyl)-5-phenylisothiazol-3(2H)-one 1,1-dioxide | ClC=1C(N(S(C1C1=CC=CC=C1)(=O)=O)CCOC)=O | C12H12ClNO4S
reactant | tetrahydro-2H-pyran-4-amine | O1CCC(CC1)N | C5H11NO
product | 2-(2-Methoxyethyl)-5-phenyl-4-(tetrahydro-2H-pyran-4-ylamino)isothiazol-3(2H)-one 1,1-dioxide | COCCN1S(C(=C(C1=O)NC1CCOCC1)C1=CC=CC=C1)(=O)=O | C17H22N2O5S
